US04001418
A solution of 4-methoxythioxanthene-9-spiro-4'-piperidine hydrochloride (2.0 g.) in ethanol (5 ml.) is treated with 2N--NaOH solution (5 ml.), diluted with water (50 ml.) and extracted with ether (3 × 50 ml.). The combined ether extracts are washed with brine, dried over MgSO4 and the solvent evaporated in vacuo to give 4-methoxythioxanthene-9-spiro-4'-piperidine (1.5 g.).

reactant | 4-methoxythioxanthene-9-spiro-4'-piperidine hydrochloride | 2.0 g | Cl.COC1=CC=CC2=C1SC1=CC=CC=C1C21CCNCC1
reactant | NaOH | 5 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 4-methoxythioxanthene-9-spiro-4'-piperidine | 1.5 g | COC1=CC=CC2=C1SC1=CC=CC=C1C21CCNCC1 | C18H19NOS
